US09290451B2
a) (S)-tert-Butyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate
NaBH4 (1.5 g, 39 mmol) was added in portions to a solution of (S)-methyl 2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoate (Example 135 a, 3.15 g, 13 mmol) in MeOH (30 mL) at room temperature. The mixture was stirred at room temperature for 2 h. H2O (50 mL) was added and a white precipitate formed. The precipitate was collected by filtration and dried to give the title product (1.84 g, 66%) as white solid which was used in the next step without further purification; MS (EI): m/e=238.1 [M+Na]+.

reactant | NaBH4 | 39 mmol, 1.5 g | [BH4-].[Na+]
reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CC1 | C12H21NO4
reactant | H2O | 50 mL | O | H2O
solvent | MeOH | 30 mL | CO | CH4O
product | (S)-tert-Butyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate | 1.84 g, 66% | C1(CC1)C[C@@H](CO)NC(OC(C)(C)C)=O | C11H21NO3
